US04024262
A mixture of 11.0 g. (0.0405 mole) of 3-ethyl-N-methyl-5-phenacyl-4-isoxazole carboxamide and 120 ml. of 2M sulfuric acid is refluxed for 18 hours. The mixture is cooled and extracted with methylene chloride. The methylene chloride layer is washed with water and then brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue is triturated with ether and filtered to give 3-ethyl-5-methyl-6-phenyl-isoxazolo[4,5-c]pyridin4(5H)-one, m.p. 167° to 169° C.

reactant | 3-ethyl-N-methyl-5-phenacyl-4-isoxazole carboxamide | 0.0405 mole | C(C)C1=NOC(=C1C(=O)NC)CC(=O)C1=CC=CC=C1 | C15H16N2O3
reactant | sulfuric acid | 2M | S(O)(O)(=O)=O | H2O4S
product | 3-ethyl-5-methyl-6-phenyl-isoxazolo[4,5-c]pyridin4(5H)-one | C(C)C1=NOC2=C1C(N(C(=C2)C2=CC=CC=C2)C)=O | C15H14N2O2
